US05627011
64.5 g of methanol, 365 g of xylene, 80 g of sodium hydroxyde (2 mol) and 147 g (1 mol) of 4-methoxyphenylacetonitrile are charged to a reactor. Then 125 g (1.07 mol) of isopentyl nitrite are added dropwise at 40° C. over 2 hours. The reaction mixture is stirred initially for 2 hours at this temperature and then for 20 hours at room temperature. Afterwards the reaction mixture is diluted with water to form an emulsion and the pH is adjusted to 14 with aqueous sodium hydroxide and the organic phase is separated. The aqueous phase is acidified with hydrochloric acid and the product is extracted with ether. The ether phase is dried and the ether is stripped off. Recrystallisation from toluene gives 142 g of α-hydroxyimino-4-methoxy-benzylcyanide, corresponding to a yield of 80.6% of theory.

reactant | sodium | 80 g | [Na] | Na
reactant | 4-methoxyphenylacetonitrile | 1 mol, 147 g | COC1=CC=C(C=C1)CC#N | C9H9NO
reactant | isopentyl nitrite | 1.07 mol, 125 g | N(=O)OCCC(C)C | C5H11NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | xylene | 365 g | C=1(C(=CC=CC1)C)C | C8H10
solvent | methanol | 64.5 g | CO | CH4O
product | α-hydroxyimino-4-methoxy-benzylcyanide | 142 g, yield of 80.6% | ON=C(C1=CC=C(C=C1)OC)C#N | C9H8N2O2
